US07897624B2
Step b: 2-(1-(N-(4-(2-Fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)sulfamoyl)cyclopropyl)acetic acid
To a dark brown solution of N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)-1-(2-oxoethyl)cyclopropane-1-sulfonamide, potassium phosphate monobasic (27 mg, 0.20 mmol), and 2-methyl-2-butene (0.45 mL, 0.90 mmol) in tert-butanol (4 mL) and H2O (1 mL) at 0° C. is added sodium chlorite (55 mg, 0.60 mmol). After stirring at 0° C. for 30 min, the reaction is warmed to room temperature and stirred for 16 h. To the reaction is added aqueous HCl solution (5 mL, 1N) and saturated aqueous NaS2O3 solution (5 mL). The mixture is extracted with CH2Cl2 (20 mL), dried over MgSO4, concentrated, and may be purified by silica gel chromatography (CH2Cl2: CH3OH=90:10).

reactant | N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)-1-(2-oxoethyl)cyclopropane-1-sulfonamide | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1C)=O)C)NS(=O)(=O)C1(CC1)CC=O | C18H19FIN3O4S
reactant | potassium phosphate monobasic | 0.20 mmol, 27 mg | OP(=O)(O)[O-].[K+]
reactant | 2-methyl-2-butene | 0.90 mmol, 0.45 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.60 mmol, 55 mg | Cl(=O)[O-].[Na+]
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | tert-butanol | 4 mL | C(C)(C)(C)O | C4H10O
solvent | H2O | 1 mL | O | H2O
product | 2-(1-(N-(4-(2-Fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)sulfamoyl)cyclopropyl)acetic acid | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1C)=O)C)NS(=O)(=O)C1(CC1)CC(=O)O | C18H19FIN3O5S
